US05158950
Isopropyl 2-(1,3-dithiol-2-ylidene)-2-carbamoylacetate
Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(ethoxycarbonyloxy-carbonyl)acetate (20.65 g) was added to a solution of ammonia in acetonitrile (150 ml) and the mixture was stirred at room temperature for an hour. The reaction mixture was evaporated to dryness and the residue was recrystallized from methylene chloride to obtain the pure product. (12.0 g, 77%)

reactant | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(ethoxycarbonyloxy-carbonyl)acetate | 20.65 g | S1C(SC=C1)=C(C(=O)OC(C)C)C(=O)OC(=O)OCC | C12H14O6S2
reactant | ammonia | N | H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-carbamoylacetate | S1C(SC=C1)=C(C(=O)OC(C)C)C(N)=O | C9H11NO3S2
